US04115571
A solution of 5-methyl-2-pyrrolidinone (19.8 g., 0.2 mole) in 25 ml. of xylene is added drop-wise to a mixture of 2-trifluoromethylphenothiazine (26.7 g., 0.1 mole) and phosphorus oxychloride (15.3 g., 0.1 mole) in 125 ml. of refluxing xylene in a two hour period. When the addition is complete, refluxing is continued for an additional 1.5 hr., the reaction mixture poured into 75 ml. of 5 N sodium hydroxide and 75 g. of crushed ice, and, after mixing well, the xylene fraction is separated. The xylene fraction is seqentially extracted with 100 ml. of 1.5 HCl followed by 100 ml. of water and then made basic by stirring with 5 N sodium hydroxide solution. Separation of the basified xylene fraction which is dried over magnesium sulfate and concentrated under reduced pressure provides a residue which is taken up in 50 ml. of benzene and the solution then concentrated. An additional 100 ml. portion of benzene is added to the residue thus obtained and the solution partially concentrated until crystals begin to form. After cooling and standing, the mixture is filtered to remove recovered 2-trifluoromethylphenothiazine starting material. Concentration of the filtrate affords a residual material which is taken up in ether, extracted with 1.5 N hydrochloric acid and then with 50 ml. of water. The combined acid-aqueous extracts are made basic with sodium hydroxide and the mixture extracted with ether. The ethereal extract is dried over magnesium sulfate, filtered, anc concentrated. Distillation of the residual oil through a 6 cm. column provides 10-[5-methyl-1-(5-methyl-1-pyrrolin-2-yl)-2-pyrrolin-2-yl]-2-(trifluoromethyl)phenothiazine free base, b.p. 175°-185° C./0.15 mm. Hg. The bis-pyrrolinyl phenothiazine free base is taken up in ethanol and acidified with ethanolic hydrogen chloride. Addition of ether provides the hydrochloride salt which crystallized from ethanol affords analytically pure 10-[5-METHYL-1-(5-METHYL-1-PYRROLIN-2-YL)-2-PYRROLIN-2-YL]-2-(TRIFLUOROMETHYL)PHENOTHIAZINE HYDROCHLORIDE, m.p. 250°-253° C. (dec.)(corr.).

reactant | 5-methyl-2-pyrrolidinone | 0.2 mole, 19.8 g | CC1CCC(N1)=O | C5H9NO
reactant | 2-trifluoromethylphenothiazine | 0.1 mole, 26.7 g | FC(C1=CC=2NC3=CC=CC=C3SC2C=C1)(F)F | C13H8F3NS
reactant | phosphorus oxychloride | 0.1 mole, 15.3 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium hydroxide | 5 N | [OH-].[Na+]
solvent | ether | CCOCC | C4H10O
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 10-[5-methyl-1-(5-methyl-1-pyrrolin-2-yl)-2-pyrrolin-2-yl]-2-(trifluoromethyl)phenothiazine | CC1CC=C(N1C1=NC(CC1)C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C(F)(F)F | C23H22F3N3S
